US07678815B2
A solution of 5-bromo-2-methyl-thiazole-4-carboxylic acid (1.50 g, 6.75 mmol) in methanol (80.00 ml) was treated with a saturated solution of HCl in ether (3.00 ml). The reaction mixture was heated at reflux for 3 h then the volatiles were removed. The residue was purified by flash chromatography (methylene chloride/methanol) yielding 5-bromo-2-methyl-thiazole-4-carboxylic acid methyl ester (1.30 g, 82%) as a white solid, MS (ISP): m/e=235.9, 237.9 (M+H+).

reactant | 5-bromo-2-methyl-thiazole-4-carboxylic acid | 6.75 mmol, 1.50 g | BrC1=C(N=C(S1)C)C(=O)O | C5H4BrNO2S
reactant | HCl | Cl | ClH
reactant | methanol | 80.00 ml | CO | CH4O
solvent | ether | 3.00 ml | CCOCC | C4H10O
product | 5-bromo-2-methyl-thiazole-4-carboxylic acid methyl ester | 1.30 g, 82% | COC(=O)C=1N=C(SC1Br)C | C6H6BrNO2S
